US05482942
2,2-Dimethyl-4-(2-methylamino-3,4-dioxo-cyclobut-1-enyl)-2H-chromene-6-carbonitrile.
To a solution of 437 mg (1.35 mmol) of 4-(2-isopropoxy-3,4-dioxo-cyclobut-1-enyl)-2,2-dimethyl-2H-chromene-6-carbonitrile in CH3CN 14 mL) was added dropwise 8.03M methylamine in EtOH. The reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was quenched with H2O (50 mL) and then was extracted into 20% THF-CH2Cl2. The combined organic extracts were dried (Na2SO4) and purified by flash chromatography (4% MeOH--CHCl3) and crystallization from CH2Cl2 -petroleum ether to give 210 mg (53% yield) of the title compound, mp 193°-194° C., as a white solid: 1H-NMR (DMSO-d6 ; 400 MHz; major rotamer) δ8.7-8.8 (br q, 1H), 7.78 (d, 1H), 7.67 (dd, 1H), 7.01 (d, 1H), 6.22 (s, 1H), 3.25 (d, 3H), and 1.46 ppm (s, 3H); IR (KBr) 2220, 1775, 1735, 1620 cm-1 ; mass spectrum (DCI+), m/e 2.95.

reactant | 4-(2-isopropoxy-3,4-dioxo-cyclobut-1-enyl)-2,2-dimethyl-2H-chromene-6-carbonitrile | 1.35 mmol, 437 mg | C(C)(C)OC1=C(C(C1=O)=O)C1=CC(OC2=CC=C(C=C12)C#N)(C)C | C19H17NO4
reactant | methylamine | 8.03M | CN | CH5N
solvent | CH3CN | 14 mL | CC#N | C2H3N
solvent | EtOH | CCO | C2H6O
product | 2,2-Dimethyl-4-(2-methylamino-3,4-dioxo-cyclobut-1-enyl)-2H-chromene-6-carbonitrile | 210 mg, 53% yield | CC1(OC2=CC=C(C=C2C(=C1)C1=C(C(C1=O)=O)NC)C#N)C | C17H14N2O3
